US06951884B2
b) 2,6-Difluoro-4-(4-fluoro-benzyloxy)-benzoic acid
BuLi (1.6 M in hexane, 27.1 mL, 43.4 mmol) was added to a solution of 3,5-difluoro-(4-fluoro-benzyloxy)-benzene (10.5 g, 41.4 mmol) in dry THF at −78° C., under Argon, and the reaction mixture maintained at this temperature for 1 h whereupon carbon dioxide gas was bubbled into the solution over a 10 min period. The reaction mixture was then warmed up to room temperature and water added. The resulting mixture was extracted with diethyl ether. The aqueous phase was adjusted to pH 2 with HCl and extracted with ethyl acetate. The combined ethyl acetate layers were washed with HCl (0.1 N), then dried over sodium sulfate, filtered and evaporated to leave a white solid. This was triturated with pentane-diethyl ether to afford the title compound (6.8 g, 59%) as a white solid. MS: m/e=280.9 (M−H−).

reactant | BuLi | 43.4 mmol, 1.6 M, 27.1 mL | [Li]CCCC
reactant | 3,5-difluoro-(4-fluoro-benzyloxy)-benzene | 41.4 mmol, 10.5 g | FC=1C=C(C=C(C1)F)OCC1=CC=C(C=C1)F | C13H9F3O
reactant | carbon dioxide | C(=O)=O | CO2
solvent | THF | C1CCOC1 | C4H8O
product | 2,6-Difluoro-4-(4-fluoro-benzyloxy)-benzoic acid | 6.8 g, 59% | FC1=C(C(=O)O)C(=CC(=C1)OCC1=CC=C(C=C1)F)F | C14H9F3O3
